Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:10].[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:11]([H:12])([H:13])[O:14][H:15]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[O:14][H:15],-1.91787548941
[C:1][O:3][C:2][O:4][C:5]([H:6])([H:7])[H:8]>>[C:1][C:2](=[O:3])[O:4][C:5]([H:6])([H:7])[H:8],-1.54114896249
[H:1][C:2]#[C:3][C:12]([H:13])([H:14])[H:15].[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]=[C:3]([O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-0.97293944486
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:3].[O:1]=[C:2][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],3.81002293311
[H:1][C:2]=[C:3]([H:4])[C:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12]>>[H:1][C:2][C:3]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12].[H:4],1.84577895146
[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:8].[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]=[C:9]([H:10])[H:11],4.83425158896
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9][H:10].[H:11],3.92680744809
[H:1][C:2]=[C:3]([H:4])[C@:5]([O:6][H:7])([C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]=[C:3]([H:4])[C:5](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[O:6][H:7],2.45622290343
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11],3.91513018755
[H:1][C:2]#[C:3][O:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]#[C:3][O:4].[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-0.0852646872399
[C:1]#[C:2].[C:3](\[O:4][H:5])=[C:6](\[H:7])[O:8][H:9]>>[C:1]#[C:2]/[C:3]([O:4][H:5])=[C:6](\[H:7])[O:8][H:9],-6.69859198661
[C:3](\[H:4])(=[C:5]\[O:6][H:7])[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]>>[O:1]=[C:2][C@:3]([H:4])([C:5][O:6][H:7])[C:8]([H:9])([H:10])[H:11],0.597580145769
[C:3]([H:4])([H:14])[H:15].[H:1]/[C:5]([C:2]#[C:12][H:13])=[C:6](/[H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]([C:3]([H:4])=[C:5]=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-2.08001820256
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15]>>[C:3]([H:4])(=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15].[H:1][O:2],2.90137708028
[O:1][C:2]#[C:3][C:4][H:5]>>[C:3]#[C:4][H:5].[O:1]=[C:2],2.46106428537
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12].[H:6]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12],-2.7277828050300004
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7],1.12496692135
[H:1][C:2]([O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:8]([H:9])([H:10])[H:11].[H:1][C:2]([O:3][C:4]=[C:5]([H:6])[H:7])[C:12]([H:13])([H:14])[H:15],4.20672064245
[H:1][C:2]1([H:3])[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]1([H:13])[H:14]>>[H:1][C:2]1([H:3])[C:4][O:5][C:6]([H:7])[C:9]([H:10])([H:11])[C:12]1([H:13])[H:14].[H:8],4.29413873744
[O:1]=[C:2]([H:3])/[C:4](=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])[H:13]>>[O:1][C@:2]1([H:3])/[C:4](=[C:5](/[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]1([H:12])[H:13],0.8183636448299999
[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])[H:8],3.9149926366
[H:11].[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[O:8][C:9][H:10]>>[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[O:8][C:9]([H:10])[H:11],-3.99492301346
[H:1][C:2]=[C:3]([H:4])[O:6][H:7].[H:5]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][H:7],-1.52290170106
[C:1]#[C:2][O:7][C:3]#[C:4][O:5][H:6]>>[C:1][C:2]1=[C:3]([C:4][O:5][H:6])[O:7]1,0.5292337803980001
[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][C:2]([H:3])=[C:4][H:5]>>[H:1][C:2]([H:3])[C:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-1.67314161956
[H:13].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([O:8][H:9])=[C:10]([H:11])[H:12]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([O:8][H:9])[C:10]([H:11])([H:12])[H:13],-2.01592663415
[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[H:14].[H:1][C:2]([H:3])([H:4])/[C:5]=[C:12](\[H:13])[C:15]([H:16])([H:17])[H:18]>>[H:1][C:2]([H:3])([H:4])[C:5][C@@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-1.2398167588700002
[C:1]=[C:2]([C:3]([H:4])=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:1]([H:4])(=[C:5]([H:6])[H:7])[H:10].[C:2](#[C:3])[C:8]([H:9])=[C:11]([H:12])[H:13],0.5313117502310001
[C:10]=[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]=[C:11]([H:12])[H:13],-3.41148787457
